US07618985B2
The crude (S)-3-(4-Methyl-1-oxo-1,2-dihydroisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester was dissolved in 2 ml of DCM and excess TFA added (0.2 ml). After stirring for 2 hours the solvent was removed under reduced pressure and the residue dissolved in methanol and partially purified by ion exchange chromatography. Further purification by prep-HPLC gave (S)-4-methyl-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one, El-MS: m/z=259.1 [M+H]+.

reactant | (S)-3-(4-Methyl-1-oxo-1,2-dihydroisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)OC=1C=C2C(=CNC(C2=CC1)=O)C | C20H26N2O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | (S)-4-methyl-6-(piperidin-3-yloxy)-2H-isoquinolin-1-one | CC1=CNC(C2=CC=C(C=C12)O[C@@H]1CNCCC1)=O | C15H18N2O2
